US08293768B2
Synthesis of 4-methyl-2-(3-((5-methylisoxazol-3-yl)methyl)-2-oxoimidazolidin-1-yl)-N-(pyridin-3-ylmethyl)thiazole-5-carboxamide
Following the procedure as described in Example 32, making variations as required to replace 2-(3-((5-chlorobenzo[b]thiophen-3-yl)methyl)-2-oxoimidazolidin-1-yl)-4-methylthiazole-5-carboxylic acid with 4-methyl-2-(3-((5-methylisoxazol-3-yl)methyl)-2-oxoimidazolidin-1-yl)thiazole-5-carboxylic acid to react with 3-(aminomethyl)pyridine, the title compound was obtained as a colorless solid in 57% yield: mp 185-188° C. (dichloromethane/hexanes); 1H NMR (300 MHz, CDCl3) δ 8.59-8.58 (m, 1H), 8.51 (d, J=4.7 Hz, 1H), 7.69 (d, J=7.8 Hz, 1H), 7.29-7.25 (m, 1H), 6.22-6.19 (m, 1H), 5.98 (s, 1H), 4.58 (d, J=5.8 Hz, 2H), 4.49 (s, 2H), 4.12-4.06 (m, 2H), 3.61-3.55 (m, 2H), 2.60 (s, 3H), 2.40 (s, 3H); MS (ES+) m/z 413.2 (M+1).

reactant | 2-(3-((5-chlorobenzo[b]thiophen-3-yl)methyl)-2-oxoimidazolidin-1-yl)-4-methylthiazole-5-carboxylic acid | ClC1=CC2=C(SC=C2CN2C(N(CC2)C=2SC(=C(N2)C)C(=O)O)=O)C=C1 | C17H14ClN3O3S2
reactant | 4-methyl-2-(3-((5-methylisoxazol-3-yl)methyl)-2-oxoimidazolidin-1-yl)thiazole-5-carboxylic acid | CC=1N=C(SC1C(=O)O)N1C(N(CC1)CC1=NOC(=C1)C)=O | C13H14N4O4S
reactant | 3-(aminomethyl)pyridine | NCC=1C=NC=CC1 | C6H8N2
product | 4-methyl-2-(3-((5-methylisoxazol-3-yl)methyl)-2-oxoimidazolidin-1-yl)-N-(pyridin-3-ylmethyl)thiazole-5-carboxamide | 57% yield | CC=1N=C(SC1C(=O)NCC=1C=NC=CC1)N1C(N(CC1)CC1=NOC(=C1)C)=O | C19H20N6O3S
